US06784167B2
To 0° C. solution of (±)-(4R*,5R*)-5-((1S*)-hydroxy-2-thienylmethyl)-1-methyl-4-phenylpyrrolidin-2-one (9.76 g, 34 mmol) in AcOH (246 mL) was added bromine (2 mL 38.8 mmol). The reaction mixture was allowed to warm to room temperature, stirred for 2 h, then poured into water (500 mL). The resulting mustard colored precipitate was isolated via filtration and washed with water to yield (±)-(4R*,5R*)-5-[(1S*)(5-bromo(2-thienyl))hydroxymethyl]-1-methyl-4-phenylpyrrolidin-2-one (6.47 g, 52%): mp 105° C.; TLC (EtOAc) Rf 0.48.

reactant | (±)-(4R*,5R*)-5-((1S*)-hydroxy-2-thienylmethyl)-1-methyl-4-phenylpyrrolidin-2-one | 34 mmol, 9.76 g | O[C@@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1)C=1SC=CC1 | C16H17NO2S
reactant | bromine | 38.8 mmol, 2 mL | BrBr | Br2
reactant | water | 500 mL | O | H2O
solvent | AcOH | 246 mL | CC(=O)O | C2H4O2
product | (±)-(4R*,5R*)-5-[(1S*)(5-bromo(2-thienyl))hydroxymethyl]-1-methyl-4-phenylpyrrolidin-2-one | 6.47 g, 52% | BrC1=CC=C(S1)[C@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1)O | C16H16BrNO2S
